US04885297
A mixture of 6-chloro-1-methoxycarbonylmethyl-2-oxo-1,2-dihydrothiazolo[5,4-b]pyridine (2.0 g) and N-methyl-piperazine (1.6 g) was heated at 130° C. for 15 min. After cooling, the mixture was purified on a silica gel column chromatography using a mixture of chloroform and methanol (10:1). The desired fractions containing the objective compound were collected and evaporated. The crude crystals obtained were recrystallized from a mixture of chloroform and diethyl ether to give 6-chloro-2-oxo-1-[(4-methyl-1-piperazinyl)carbonylmethyl]-1,2-dihydrothiazolo[5,4-b]pyridine (0.4 g).

reactant | 6-chloro-1-methoxycarbonylmethyl-2-oxo-1,2-dihydrothiazolo[5,4-b]pyridine | 2.0 g | ClC=1C=C2C(=NC1)SC(N2CC(=O)OC)=O | C9H7ClN2O3S
reactant | N-methyl-piperazine | 1.6 g | CN1CCNCC1 | C5H12N2
product | 6-chloro-2-oxo-1-[(4-methyl-1-piperazinyl)carbonylmethyl]-1,2-dihydrothiazolo[5,4-b]pyridine | 0.4 g | ClC=1C=C2C(=NC1)SC(N2CC(=O)N2CCN(CC2)C)=O | C13H15ClN4O2S
